*******************************************
* Library of two-wire lumped RLC coupled  *
* transmission line models for LTspice    *
* One to 512 segments, G is not modelled  *
* Created by Vitaliy Tkachenko, 2005      *
*******************************************
* Parameters:                             *
* Len - Transmission Line Length          *
* Rs  - Series Resistance per Length      *
* C11 C12 C22 - Capacitances per Length   *
* L11 L12 L22 - Inductances per Length    *
*******************************************
.param
+ Ze={sqrt((L11+L12)/(C11+C12))}
+ Zo={sqrt((L11-L12)/(C11-C12))}
+ Zd={2*Ze*Zo/(Ze-Zo)}
+ Zc={Ze}
+ To={Len*sqrt((L11-L12)*(C11-C12))}
+ Te={Len*sqrt((L11+L12)*(C11+C12))}
*******************************************

.subckt two_coupled_lines 1 2 3 4 5 params:
+ Len=1 Num=1 Rser=0
+ C11=1 C12=1 C22=1
+ L11=1 L12=1 L22=1

C1 1 5 {(C11+C12)*Len/2/Num}
C2 2 5 {(C22+C12)*Len/2/Num}
C3 2 1 {-C12*Len/2/Num}
L1 1 3 {L11*Len/Num} Rser={Rs*Len/Num}
L2 2 4 {L11*Len/Num} Rser={Rs*Len/Num}
K1 L1 L2 {L12/sqrt(L11*L22)}
C4 3 5 {(C11+C12)*Len/2/Num}
C5 4 5 {(C22+C12)*Len/2/Num}
C6 4 3 {-C12*Len/2/Num}
.ends

.subckt two_coupled_lines_4 in1 in2 out1 out2 cmn
+ params:
+ Len=1 Num=4 Rser=0
+ C11=1 C12=1 C22=1
+ L11=1 L12=1 L22=1

x1  in1  in2  1     2     cmn two_coupled_lines
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x2  1    2    3     4     cmn two_coupled_lines
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x3  3    4    5     6     cmn two_coupled_lines
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x4  5    6    out1  out2  cmn two_coupled_lines
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
.ends

.subckt two_coupled_lines_16 in1 in2 out1 out2 cmn
+ params:
+ Len=1 Num=16 Rser=0
+ C11=1 C12=1 C22=1
+ L11=1 L12=1 L22=1

x1  in1  in2  1     2     cmn two_coupled_lines_4
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x2  1    2    3     4     cmn two_coupled_lines_4
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x3  3    4    5     6     cmn two_coupled_lines_4
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x4  5    6    out1  out2  cmn two_coupled_lines_4
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
.ends

.subckt two_coupled_lines_32 in1 in2 out1 out2 cmn
+ params:
+ Len=1 Num=32 Rser=0
+ C11=1 C12=1 C22=1
+ L11=1 L12=1 L22=1

x1  in1  in2  1     2     cmn two_coupled_lines_16
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x2  1    2    out1  out2  cmn two_coupled_lines_16
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
.ends

.subckt two_coupled_lines_64 in1 in2 out1 out2 cmn
+ params:
+ Len=1 Num=64 Rser=0
+ C11=1 C12=1 C22=1
+ L11=1 L12=1 L22=1

x1  in1  in2  1     2     cmn two_coupled_lines_16
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x2  1    2    3     4     cmn two_coupled_lines_16
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x3  3    4    5     6     cmn two_coupled_lines_16
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x4  5    6    out1  out2  cmn two_coupled_lines_16
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
.ends

.subckt two_coupled_lines_128 in1 in2 out1 out2 cmn
+ params:
+ Len=1 Num=128 Rser=0
+ C11=1 C12=1 C22=1
+ L11=1 L12=1 L22=1

x1  in1  in2  1     2     cmn two_coupled_lines_64
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x2  1    2    out1  out2  cmn two_coupled_lines_64
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
.ends

.subckt two_coupled_lines_256 in1 in2 out1 out2 cmn
+ params:
+ Len=1 Num=256 Rser=0
+ C11=1 C12=1 C22=1
+ L11=1 L12=1 L22=1

x1  in1  in2  1     2     cmn two_coupled_lines_64
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x2  1    2    3     4     cmn two_coupled_lines_64
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x3  3    4    5     6     cmn two_coupled_lines_64
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x4  5    6    out1  out2  cmn two_coupled_lines_64
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
.ends

.subckt two_coupled_lines_512 in1 in2 out1 out2 cmn
+ params:
+ Len=1 Num=512 Rser=0
+ C11=1 C12=1 C22=1
+ L11=1 L12=1 L22=1

x1  in1  in2  1     2     cmn two_coupled_lines_256
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
x2  1    2    out1  out2  cmn two_coupled_lines_256
+ Len={Len} Num={num} Rser={Rs}
+ C11={C11} C12={C12} C22={C22}
+ L11={L11} L12={L12} L22={L22}
.ends
